US03983253
6-Methoxy-2-methylindanone [1.76 g (0.01 mole)] is dissolved in 6.5 ml of absolute ethanol (containing 20% anhydrous ether). This solution is stirred with 2.4 g (0.016 mole) of triethylorthoformate and a drop of redistilled BF3C2H5O C2H5 for about 72 hours. The reaction mixture is diluted with ether, poured slowly into 8.1 ml of 5.0% sodium hydroxide solution with crushed ice with stirring. Two layers separate and the organic layer is washed with cold water until neutral followed by saturated sodium chloride solution and dried over sodium sulfate. This is then filtered and the solvent removed and the residue distilled with 1 ml of benzene solution which contains about 47.5 mg of anhydrous p-toluene sulfonic acid to obtain 2-methyl-3-ethoxy-5-methoxyindene.

reactant | 6-Methoxy-2-methylindanone | 0.01 mole, 1.76 g | COC1=CC=C2CC(C(C2=C1)=O)C | C11H12O2
reactant | triethylorthoformate | 0.016 mole, 2.4 g | C(C)OC(OCC)OCC | C7H16O3
reactant | sodium hydroxide | 8.1 ml | [OH-].[Na+]
solvent | ethanol | 6.5 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 2-methyl-3-ethoxy-5-methoxyindene | CC=1CC2=CC=C(C=C2C1OCC)OC | C13H16O2
